US05432182
A solution of 3-butyryl-4-(4-fluoro-2-methylphenyl-amino)-8-hydroxyquinoline (3.2 g, 9.4 mmol) and potassium t-butoxide (1.83 g, 15 mmol) in tetrahydrofuran (75 ml) was warmed to reflux, 2-chloroethanol (1.3 ml, 20 mmol) added, and heating continued for 2 days. The solvent was evaporated, the residue taken up in dichloromethane, washed with water and brine, dried and evaporated. Chromatography (silica gel, 5% methanol in dichloromethane) gave initially recovered starting material, followed by product fractions which were recrystallised from ethyl acetate/petroleum ether, then from methanol to give 3-butyryl-4-(4-fluoro-2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline as a hygroscopic solid (0.82 g, 23%), m.p. 130°-133°.

reactant | 3-butyryl-4-(4-fluoro-2-methylphenyl-amino)-8-hydroxyquinoline | 9.4 mmol, 3.2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)F)C)O | C20H19FN2O2
reactant | potassium t-butoxide | 15 mmol, 1.83 g | CC(C)([O-])C.[K+]
reactant | 2-chloroethanol | 20 mmol, 1.3 ml | ClCCO | C2H5ClO
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-butyryl-4-(4-fluoro-2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)F)C)OCCO | C22H23FN2O3
